US08664257B2
Step 2: 5-(3,3-Dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid
100 mg (0.3 mmol) of 5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester were dissolved in 5 ml of MOH. 0.7 mmol of lithium hydroxide and 2 ml of water were added and the mixture stirred overnight at room temperature. The solvent was removed in vacuo and the residue subjected to aqueous work-up with a 10% solution of citric acid and DCM. The organic phase was dried and the solvent removed in vacuo to give the title compound.

reactant | 5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester | 0.3 mmol, 100 mg | COC(=O)C1=NN(C(=C1)OCC(C(C)(C)C)=O)C1=C(C=CC=C1)F | C17H19FN2O4
reactant | lithium hydroxide | 0.7 mmol | [OH-].[Li+]
solvent | water | 2 ml | O | H2O
product | 5-(3,3-Dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid | CC(C(COC1=CC(=NN1C1=C(C=CC=C1)F)C(=O)O)=O)(C)C | C16H17FN2O4
